US06066658
A mixture of ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]thiophene-1-carboxylate (2.09 g), thioacetamide (0.90 g) and ethanol (100 ml) was refluxed under heating for 7 hours, after which it was concentrated under reduced pressure, diluted with water (50 ml) and extracted with ethyl acetate. The organic layer was washed with water and dried (MgSO4), after which the solvent was distilled off. The residue was subjected to silica gel column chromatography and eluted with ethyl acetate-hexane (1:19 to 1:9, v/v) to yield ethyl 4,5-dihydro-2-methyl-8-methylthiothieno[3,4-e]benzothiazole-6-carboxylate (0.86 g, 44%), which was then recrystallized from ethyl acetate-hexane. Yellow prisms. Melting point 143-144° C.

reactant | ethyl 5-bromo-4,5,6,7-tetrahydro-3-methylthio-4-oxobenzo[c]thiophene-1-carboxylate | 2.09 g | BrC1C(C=2C(=C(SC2SC)C(=O)OCC)CC1)=O | C12H13BrO3S2
reactant | thioacetamide | 0.90 g | C(C)(=S)N | C2H5NS
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 4,5-dihydro-2-methyl-8-methylthiothieno[3,4-e]benzothiazole-6-carboxylate | 0.86 g, 44% | CC=1SC2=C(N1)C=1C(CC2)=C(SC1SC)C(=O)OCC | C14H15NO2S3
